US05541307
Mitsunobu reaction of 3'-C-styrylthymidine with N-hydroxyphthalimide gave 97% yield of 5'-C-phtalimido-3'-C-styrylthymidine as a white solid. Anal.: C26H23N3O6Calcd.: C% 65.95; H% 4.89; N% 8.87; Found: C% 65.69; H% 5.11; N% 8.59.

reactant | 3'-C-styrylthymidine | C(=CC1=CC=CC=C1)[C@@]1(C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1)O | C18H20N2O5
reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
product | 5'-C-phtalimido-3'-C-styrylthymidine | 97% yield | C1(C=2C(C(N1C([C@@H]1[C@](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)(O)C=CC1=CC=CC=C1)O)=O)=CC=CC2)=O | C26H23N3O7
